US08349880B2
Step C (3): Dichloromethane (125 mL) was added to a flask charged with 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)aniline (3.14 g, 16.3 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (3.79 g, 16.3 mmol). The resulting mixture was stirred for 24 h at rt and concentrated in vacuo. The crude residue was purified using silica gel chromatography (0-5% EtOAc/chloroform, linear gradient) to afford 1-(2-fluoro-4-isothiocyanatophenyl)-5-methyl-1H-1,2,4-triazole (3.18 g, 13.6 mmol, 83% yield) as a white solid. LC-MS (M+H)+ 235.0. 1H NMR (500 MHz, chloroform-d) δ ppm 7.99 (s, 1 H) 7.47 (t, J=8.24 Hz, 1 H) 7.13-7.22 (m, 2 H) 2.43 (d, J=1.83 Hz, 3H).

reactant | 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)aniline | 16.3 mmol, 3.14 g | FC=1C=C(N)C=CC1N1N=CN=C1C | C9H9FN4
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 16.3 mmol, 3.79 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | Dichloromethane | 125 mL | ClCCl | CH2Cl2
product | 1-(2-fluoro-4-isothiocyanatophenyl)-5-methyl-1H-1,2,4-triazole | 13.6 mmol, 3.18 g, 83% yield | FC1=C(C=CC(=C1)N=C=S)N1N=CN=C1C | C10H7FN4S
